US05366972
c) 2-Chloro-N-(2-ethylamino-3-pyridinyl)-5-nitro-3-pyridinecarboxamide
A solution of 2.21 g of 2-chloro-5-nitronicotinoyl chloride (obtained by nitrating 2-hydroxynicotinic acid, followed by conversion to 2-chloro-5-nitronicotinic acid, which was then treated with thionyl chloride) in 10 ml of tetrahydrofuran was slowly added over 15 minutes to a cooled, stirred mixture of 1.34 g of 3-Amino-2-ethylaminopyridine, 1.29 g of diisopropylethylamine, and 40 ml of tetrahydrofuran. The resulting mixture was allowed to stir overnight at room temperature, and then concentrated in vacuo. The title compound (2.30 g, m.p. 185°-186° C.), which precipitated out when the residue was treated with methylene chloride, was suitable for use in the next reaction.

reactant | 2-chloro-5-nitronicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)[N+](=O)[O-] | C6H3ClN2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-Amino-2-ethylaminopyridine | 1.34 g | NC=1C(=NC=CC1)NCC | C7H11N3
reactant | diisopropylethylamine | 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-Chloro-N-(2-ethylamino-3-pyridinyl)-5-nitro-3-pyridinecarboxamide | ClC1=NC=C(C=C1C(=O)NC=1C(=NC=CC1)NCC)[N+](=O)[O-] | C13H12ClN5O3
